Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-6.0364706777600015
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[C:7]([H:8])[H:9],0.0740769702807
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.64620357398
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][H:10].[H:8],2.08885439219
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.03348299755
[H:1][O:2][C@@:3]1([H:4])[C:5][C:6]([H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.0536397123205
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-1.79811217599
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10].[H:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14],1.23650152622
[H:1][C:2][O:3][C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],6.39361624331
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.00889263706
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12],4.21880880959
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],2.9916215865099995
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10],10.601509421
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9],6.411786183209999
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-0.8951921845659999
[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.22158342325
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.52682619265
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]#[C:10][H:11],2.71626150803
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-5.0896198346
[O:1][C:2]#[C:3][H:4].[O:5]=[C:6][H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],-0.48171333865
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.01358611727
[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.12756436511
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2],5.34388368929
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7],7.15677728533
[C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:4]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-7.37064360663
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[O:3],-0.632948059979
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-2.0328298145500003
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.11791850128
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14],1.92442645886
[C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.50259588209
